US09283555B2
N′-(2-isopropylphenyl)-N-(diisopropylphosphino)-N-methyl-4-methylbenzamidine (NSP Amidine III)
N′-(2-isopropylphenyl)-N-(diisopropylphosphino)-4-methylbenzamidine (1.40 g, 3.0 mmol) was dissolved in 25 mL of diethylether and cooled to 0° C. Butyllithium (1.50 mL of 2.0 M solution in pentane, 3.0 mmol) was added dropwise, producing a cloudy yellow suspension. The slurry was warmed to room temperature and stirred for 2 hours. Methyliodide (1.5 mL of 2.0 M solution in THF) was added dropwise at room temperature and stirred continued for 1 hour. The solution became clear yellow. The solvent was removed under vacuum and replaced with 20 mL of diethylether. A small amount of solid (presumably LiI) was removed by filtration and the filtrate was taken to dryness, yielding 0.94 g (65%) of sticky yellow solid.

reactant | N′-(2-isopropylphenyl)-N-(diisopropylphosphino)-4-methylbenzamidine | 3.0 mmol, 1.40 g | C(C)(C)C1=C(C=CC=C1)N=C(C1=CC=C(C=C1)C)NP(C(C)C)C(C)C | C23H33N2P
reactant | Butyllithium | 3.0 mmol, 2.0 M, 1.50 mL | C(CCC)[Li]
reactant | Methyliodide | 2.0 M, 1.5 mL | CI | CH3I
solvent | diethylether | 25 mL | C(C)OCC | C4H10O
product | N′-(2-isopropylphenyl)-N-(diisopropylphosphino)-N-methyl-4-methylbenzamidine | 0.94 g, 65% | C(C)(C)C1=C(C=CC=C1)N=C(C1=CC=C(C=C1)C)N(C)P(C(C)C)C(C)C | C24H35N2P
